US07514448B2
Methyl 3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetate (0.5 g, 1.3 mmol) was dissolved in methanol and 2N NaOH (3 mL) added. The reaction was stirred at 60° C. for 2 hours then the solution was adjusted to pH 6.5. The product was extracted into ethyl acetate, and the organic phase was dried by MgSO4. The solvent was evaporated to afford 3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetic acid (0.30 g). 1H NMR (500 MHz, CDCl3) 1.02 (m, 2H), 1.25 (m, 2H), 1.55 (m, 2H), 1.65 (m, 2H), 2.57 (m, 2H), 3.33 (m, 1H), 3.75 (s, 2H), 3.95 (m, 2H), 6.63 (m, 3H), 6.98 (m, 1H).

reactant | Methyl 3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetate | 1.3 mmol, 0.5 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CCCOC=1C=C(C=CC1)CC(=O)OC | C22H33NO5
reactant | NaOH | 2N, 3 mL | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 3-(3-(N-Boc-piperidin-4-yl)-propoxy)-phenylacetic acid | 0.30 g | C(=O)(OC(C)(C)C)N1CCC(CC1)CCCOC=1C=C(C=CC1)CC(=O)O | C21H31NO5
